US07326732B2
(i) 4,4′-Difluoro-biphenyl-3-carboxylic acid
5-Bromo-2-fluorobenzoic acid (250 mg, 1.14 mmol) was coupled to 4-fluoro-phenylboronic acid (192 mg, 1.37 mmol) using Method E to give the title compound. No chromatography was necessary.

reactant | 5-Bromo-2-fluorobenzoic acid | 1.14 mmol, 250 mg | BrC=1C=CC(=C(C(=O)O)C1)F | C7H4BrFO2
reactant | 4-fluoro-phenylboronic acid | 1.37 mmol, 192 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 4,4′-Difluoro-biphenyl-3-carboxylic acid | FC1=C(C=C(C=C1)C1=CC=C(C=C1)F)C(=O)O | C13H8F2O2
